US04228168
3.0 ml of acetic acid and 1.5 ml of conc. hydrochloric acid were added to 0.70 g of 1,2,3,4-tetrahydro-1-[3,3-bis(ethoxycarbonyl)propyl]-2-ethyl-β-carboline. The mixture was stirred at 120° C. for 5 hours. After the reaction was completed, the mixture was evaporated to remove solvent, whereby 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-ethyl-β-carboline was obtained as a crude product. 30 ml of 10% methanolic hydrogen chloride were added to the crude product, and the mixture was refluxed for 2 hours. After the reaction was completed, the mixture was concentrated. The residue thus obtained was alkalified with an aqueous saturated sodium bicarbonate solution under cooling, and extracted with ethyl acetate. The extract was washed with water, dried and evaporated to remove solvent. The residue thus obtained was purified by silica gel chromatography (Solvent: chloroform-methanol (20:1)), whereby 470 mg of 1,2,3,4-tetrahydro-1-(3-methoxycarbonylpropyl)-2-ethyl-β-carboline were obtained. Yield: 84.0%

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | 1,2,3,4-tetrahydro-1-[3,3-bis(ethoxycarbonyl)propyl]-2-ethyl-β-carboline | 0.70 g | C(C)OC(=O)C(CCC1N(CCC=2C3=CC=CC=C3NC12)CC)C(=O)OCC | C22H30N2O4
solvent | acetic acid | 3.0 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-ethyl-β-carboline | C(=O)(O)CCCC1N(CCC=2C3=CC=CC=C3NC12)CC | C17H22N2O2
